**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Multiline EMI Suppression Ferrite 
* Matchcode:              WE-MLS 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-30
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1111_74273012_249ohm 1 2
Rp 1 2 300
Cp 1 2 0.43p
Rs 1 N3 0.002
L1 N3 2 4u
.ends 1111_74273012_249ohm
*******
.subckt 1111_742730123_334ohm 1 2
Rp 1 2 365
Cp 1 2 0.33p
Rs 1 N3 0.002
L1 N3 2 3.4u
.ends 1111_742730123_334ohm
*******
.subckt 1111_742730223_334ohm 1 2
Rp 1 2 365
Cp 1 2 0.33p
Rs 1 N3 0.002
L1 N3 2 3.4u
.ends 1111_742730223_334ohm
*******
.subckt 1111_74273002_249ohm 1 2
Rp 1 2 300
Cp 1 2 0.43p
Rs 1 N3 0.002
L1 N3 2 4u
.ends 1111_74273002_249ohm
*******
.subckt 1111_742730021_170ohm 1 2
Rp 1 2 150
Cp 1 2 0.001p
Rs 1 N3 0.002
L1 N3 2 2u
.ends 1111_742730021_170ohm
*******
.subckt 1111_742730022_248ohm 1 2
Rp 1 2 290
Cp 1 2 0.31p
Rs 1 N3 0.002
L1 N3 2 3.7u
.ends 1111_742730022_248ohm
*******
.subckt 1111_742730023_334ohm 1 2
Rp 1 2 365
Cp 1 2 0.33p
Rs 1 N3 0.002
L1 N3 2 3.4u
.ends 1111_742730023_334ohm
*******
.subckt 1111_742730321_150ohm 1 2
Rp 1 2 162
Cp 1 2 0.01p
Rs 1 N3 0.002
L1 N3 2 0.835u
.ends 1111_742730321_150ohm
*******
.subckt 7650_74273001_264ohm 1 2
Rp 1 2 290
Cp 1 2 0.385p
Rs 1 N3 0.002
L1 N3 2 3u
.ends 7650_74273001_264ohm
*******
.subckt 7650_74273031_264ohm 1 2
Rp 1 2 260
Cp 1 2 0.12p
Rs 1 N3 0.002
L1 N3 2 1.8u
.ends 7650_74273031_264ohm
*******
